US04307105
(a) 5-Bromo-4-chloromethyl-2-methylthiazole
To 11 g of 4-chloromethyl-2-methylthiazole, hydrochloride (0.06 mol), dissolved in 150 ml of glacial acetic acid are added while stirring, 11.5 g of anhydrous sodium acetate (0.14 mol) and at 45°-50°, 9.6 g of bromine (0.12 mol) in 50 ml of glacial acetic acid. Stirring is continued for an additional 2.5 hours at 60°-80° C. Then the solution is evaporated in vacuo to dryness and the residual product is extracted with ether. Evaporation of the solvent gives 8.3 g oil which is then dissolved in hexane. Charcoal treatment, evaporation of the solvent, dissolving of the oil again in 100 ml of ether and addition of ethereal hydrochloric acid, yield the hydrochloride. Yield: 6.5 g (41%), m.p. 154°-156° C.

reactant | 4-chloromethyl-2-methylthiazole, hydrochloride | 0.06 mol, 11 g | Cl.ClCC=1N=C(SC1)C
reactant | sodium acetate | 0.14 mol, 11.5 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.12 mol, 9.6 g | BrBr | Br2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-4-chloromethyl-2-methylthiazole | 8.3 g | BrC1=C(N=C(S1)C)CCl | C5H5BrClNS
